US05206312
Preparation of 1,3-bis-((2-cyclohexenyl)-ethyl)-1,1,3,3-tetramethyldisiloxane
To a 20 ml toluene solution of 51.93 g (0.48 mole) of 4-vinylcyclohexene-1 and 0.37 g of 5% H2PtCl6 in t-amyl alcohol is added 33.6 (0.23 mole, 90% purity) of 1,1,3,3-tetramethyldisiloxane at 45° C. to 50° C. for 1 hour and 30 minutes. The reaction is complete after maintaining the reaction at 55° C. for 5 hours. To this mixture is added 250 ml methyl ethyl ketone. After washing successively with four 100 ml portions of H2O, 78 g (>95% purity by GC) of 1,3-bis-((2-cyclohexenyl)-ethyl)-1,1,3,3-tetramethyldisiloxane having a light yellowish color is obtained after stripping off solvent at 120° C. and <10 mm Hg. The structure of the product, 1,3-bis-((2-cyclohexenyl)ethyl-1,1,3,3-tetramethyldisiloxane, is confirmed by IR and 1H NMR as follows:

reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-vinylcyclohexene-1 | 0.48 mole, 51.93 g | C=CC1CCC=CC1 | C8H12
reactant | 1,1,3,3-tetramethyldisiloxane | 0.23 mole | C[SiH](O[SiH](C)C)C | C4H14OSi2
reactant | (2-cyclohexenyl)ethyl-1,1,3,3-tetramethyldisiloxane | C1(C=CCCC1)CC[Si](O[SiH](C)C)(C)C | C12H26OSi2
solvent | t-amyl alcohol | C(C)(C)(CC)O | C5H12O
solvent | methyl ethyl ketone | 250 ml | C(C)C(=O)C | C4H8O
product | 1,3-bis-((2-cyclohexenyl)-ethyl)-1,1,3,3-tetramethyldisiloxane | C1(C=CCCC1)CC[Si](O[Si](C)(C)CCC1C=CCCC1)(C)C | C20H38OSi2
